US07772246B2
Preparation of 1-(tert-butoxycarbonyl)-2,3-dihydro-1H-pyrrolo[2,3-b]pyridin-5-ylboronic acid (B-12-3)
To a mixture of tert-butyl 5-bromo-2,3-dihydropyrrolo[2,3-b]pyridine-1-carboxylate (B-12-2) (725 mg, 2.42 mMoles) and bis(pinacolato) diboron (894 mg, 3.52 mMoles) in 20 ml DMF were added potassium acetate (691 mg, 7.04 mMoles) and [1,1-Bis(diphenylphosphino)-ferrocene]dichloropalladium (II) dichloromethane (1:1) complex (34.3 mg, 0.0469 mMoles). The mixture was heated in 100° C. microwave reactor for 60 min. LCMS indicated reaction was complete. RXN was filtered and the filtrate was concentrated to dryness under high vacuum. The residual was partitioned between EtOAc and saturated aqueous NaCl. The aqueous layer was extracted with EtOAc (3×40 mL). The combined organic layers were dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue was chromatographed on a 25 g silica gel cartridge with 1˜4% MeOH in DCM as solvent. The crude product and was used as is in the next step.

reactant | tert-butyl 5-bromo-2,3-dihydropyrrolo[2,3-b]pyridine-1-carboxylate | 2.42 mMoles, 725 mg | BrC=1C=C2C(=NC1)N(CC2)C(=O)OC(C)(C)C | C12H15BrN2O2
reactant | bis(pinacolato) diboron | 3.52 mMoles, 894 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 7.04 mMoles, 691 mg | C(C)(=O)[O-].[K+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 1-(tert-butoxycarbonyl)-2,3-dihydro-1H-pyrrolo[2,3-b]pyridin-5-ylboronic acid | C(C)(C)(C)OC(=O)N1CCC=2C1=NC=C(C2)B(O)O | C12H17BN2O4
